US08461181B2
A mixture of 1.90 g of N1-methyl-4-trifluoromethylbenzene-1,2-diamine, 1.49 g of 3-fluoropyridine-4-carbaldehyde, 3.12 g of sodium bisulfite and 20 ml of DMF was stirred for 1.5 hours while heating at 80° C., then, was stirred for 2 hours while heating at 120° C. After cooling down to room temperature, a saturated ammonium chloride aqueous solution was poured, and the mixture was extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, then, concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.83 g of 2-(3-fluoropyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole (hereinafter, referred to as present active compound 4).

reactant | N1-methyl-4-trifluoromethylbenzene-1,2-diamine | 1.90 g | CNC=1C(=CC(=CC1)C(F)(F)F)N | C8H9F3N2
reactant | 3-fluoropyridine-4-carbaldehyde | 1.49 g | FC=1C=NC=CC1C=O | C6H4FNO
reactant | sodium bisulfite | 3.12 g | S([O-])(O)=O.[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 2-(3-fluoropyridin-4-yl)-1-methyl-5-trifluoromethyl-1H-benzimidazole | 1.83 g | FC=1C=NC=CC1C1=NC2=C(N1C)C=CC(=C2)C(F)(F)F | C14H9F4N3
